US06559091B1
Preparation of the Iron bis(tetrafluoroborate) Complex of h25
A solution of h25 (5.1 mg; 8.9 μmol) in about 2 mL dichloromethane was added to a suspension of iron bis(tetrafluoroborate) hexahydrate (3.0 mg; 8.9 μmol) in dichloromethane. The mixture was stirred at room temperature for about 18 hours before being used in the polymerization of ethylene.

reactant | iron bis(tetrafluoroborate) hexahydrate | 8.9 μmol, 3.0 mg | O.O.O.O.O.O.F[B-](F)(F)F.F[B-](F)(F)F.[Fe+2]
reactant | ethylene | C=C | C2H4
solvent | dichloromethane | about 2 mL | ClCCl | CH2Cl2
product | Iron bis(tetrafluoroborate) | F[B-](F)(F)F.F[B-](F)(F)F.[Fe+2] | InChI=1S/2BF4.Fe/c2*2-1(3,4)5;/q2*-1;+2
